US07314936B2
A mixture of 5-chloromethyl-indole-1-carboxylic acid tert-butyl ester (0.41 g, 1.55 mmol, 1.0 eq.), cyclohexanol (0.82 mL, 5.0 eq.) and Ag2O (1.80 g, 5.0 eq.) in diethyl ether (5 mL) was stirred at 35° C. over weekend. After cooling to room temperature, the reaction mixture was filtered through celite washing with ether. The filtrate was concentrated and the residue was purified by chromatography (3% EtOAc/hexanes) to give N-Boc-5-cyclohexyloxymethylindole (160 mg, 28%) as colorless oil. 1HNMR comfirmed the compound.

reactant | 5-chloromethyl-indole-1-carboxylic acid tert-butyl ester | 1.55 mmol, 0.41 g, 1.0 eq. | C(C)(C)(C)OC(=O)N1C=CC2=CC(=CC=C12)CCl | C14H16ClNO2
reactant | cyclohexanol | 0.82 mL, 5.0 eq. | C1(CCCCC1)O | C6H12O
solvent | diethyl ether | 5 mL | C(C)OCC | C4H10O
product | N-Boc-5-cyclohexyloxymethylindole | 160 mg, 28% | C(=O)(OC(C)(C)C)N1C=CC2=CC(=CC=C12)COC1CCCCC1 | C20H27NO3
